US05646283
Methyl 4-(4-chlorobenzoyl)butyrate (compound rr):
Chlorobenzene (8.13 ml, 79.9 mmol) was dissolved in 100 ml of 1,2-dichloroethane, and 21.3 g (160 mmol) of aluminum trichloride and 12.15 ml (87.9 mmol) of methyl 4-(chloroformyl)butyrate were added thereto, followed by stirring the mixture at room temperature overnight. The reaction solution was poured into hydrochloric acid, and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was then distilled off under reduced pressure. The resulting residue was purified by silica-gel column chromatography (eluent: a mixture of 4% ethyl acetate and hexane) to obtain 15.8 g of the above-mentioned compound (yield 82%).

reactant | Chlorobenzene | 79.9 mmol, 8.13 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | aluminum trichloride | 160 mmol, 21.3 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | methyl 4-(chloroformyl)butyrate | 87.9 mmol, 12.15 ml | ClC(=O)CCCC(=O)OC | C6H9ClO3
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | Methyl 4-(4-chlorobenzoyl)butyrate | 15.8 g, yield 82% | ClC1=CC=C(C(=O)CCCC(=O)OC)C=C1 | C12H13ClO3
